US07183295B2
Synthesis of 4,4-Ethylenedioxy-4-phenylbutylamine
4,4-Ethylenedioxy-4-phenylbutylazide (130.0 mg, 0.56 mmol) was dissolved in tetrahydrofuran (5 ml), and thereto were added water (0.01 ml, 0.56 mmol) and triphenylphosphine (146.2 mg, 0.56 mmol) in a tetrahydrofuran solution (2 ml) in sequential order at the same temperature, and thereafter, the solution was stirred at room temperature for 24 hours. The reaction solution was added to a saturated aqueous sodium hydrogencarbonate solution and then extracted by chloroform, to obtain an organic layer. The extracted organic was washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resultant substance was purified by silica gel column chromatography (chloroform/methanol=10/1), whereby the target compound was obtained as a colorless oil (61.8 mg, 56.4% for 2 steps).

reactant | 4,4-Ethylenedioxy-4-phenylbutylazide | 0.56 mmol, 130.0 mg | C1OC(CCCN=[N+]=[N-])(C2=CC=CC=C2)OC1 | C12H15N3O2
reactant | water | 0.56 mmol, 0.01 ml | O | H2O
reactant | triphenylphosphine | 0.56 mmol, 146.2 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4,4-Ethylenedioxy-4-phenylbutylamine | C1OC(CCCN)(C2=CC=CC=C2)OC1 | C12H17NO2
